US08030302B2
6-Bromo-5-(2-fluoro-4-nitrophenoxy)-1H-indazole
To a 3000 mL flask is added 6-bromo-5-(2-fluoro-4-nitrophenoxy)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole (250 g, 573.1 mmol) followed by MeOH (1000 mL) and MeSO3H (1 12.71 mL,1.72 mol) and heated to 50° C. for 14 hours. Solid crystallizes out of solution. The mixture is then cooled to RT. The reaction mixture is concentrated under vacuum at 45° C. to dryness to get solid. The solid is diluted with DCM (2000 mL) and treated with water (1000 mL) and 5N NaOH (about 350 mL) until the pH is 8-9. The organic layer is separated and the solvent is removed followed by azeotrope with toluene to give 195.6 g of the yellow solid material. MS (m/z): 354.0 (M+H).

reactant | 6-bromo-5-(2-fluoro-4-nitrophenoxy)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole | 573.1 mmol, 250 g | BrC=1C(=CC2=CN(N=C2C1)C1OCCCC1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C18H15BrFN3O4
reactant | MeOH | 1000 mL | CO | CH4O
reactant | MeSO3H | 1.72 mol, 12.71 mL | CS(=O)(=O)O | CH4O3S
reactant | NaOH | 5N, about 350 mL | [OH-].[Na+]
solvent | DCM | 2000 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1000 mL | O | H2O
product | 6-Bromo-5-(2-fluoro-4-nitrophenoxy)-1H-indazole | 195.6 g | BrC1=C(C=C2C=NNC2=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H7BrFN3O3
